Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:8]([H:9])([H:10])[H:11].[O:1][O:2][C:3]([H:4])[C:5]#[C:6][H:7]>>[O:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11],-3.18781238513
[H:1][C:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:2]#[C:3][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][C:4],7.368621497089999
[C:4]([H:5])[O:6][C:7]([H:8])[H:9].[H:1][O:2][C:3]>>[H:1][O:2][C:3][C:4]([H:5])[O:6][C:7]([H:8])[H:9],-4.22716804858
[H:1][C:2]#[C:3][C@:8]([O:7][C:4]([H:5])[H:6])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]=[C:3]1[C:4]([H:5])([H:6])[O:7][C@@:8]1([H:9])[C:10]([H:11])([H:12])[H:13],-0.25682977847
[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10]>>[H:6].[O:1]=[C:2]/[C:3]([H:4])=[C:5]/[C:7]([H:8])([H:9])[H:10],4.812152026230001
[C:2]([H:3])=[C:4]([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-5.20854408874
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])=[C:13]([H:14])[H:15]>>[H:12].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]=[C:13]([H:14])[H:15],4.77244105551
[H:1][O:2][C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])=[C:5][H:6],4.6879499406
[O:1][C:2]([H:3])([H:4])[C@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[H:15].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[O:14],4.706940543919999
[H:1][C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])[C:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13],4.0901120727199975
[C:1].[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[H:10],-5.491658586209999
[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][O:2][C:3]([O:4][H:5])=[C:6][H:7],5.2725121306
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][H:9]>>[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][H:9].[O:1],4.14159167917
[H:15].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13][H:14]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-4.88505770816
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:8],1.79738486688
[C:7][H:8].[O:1][O:2][C:3][C:4]([H:5])[H:6]>>[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][H:8],-2.46604025655
[H:1][O:2][C@@:3]([O:4][C:5]([H:6])([H:7])[H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:9]([H:10])[H:11].[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:12]([H:13])([H:14])[H:15],4.910324450280001
[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])([H:4])/[C:5]=[C:6](\[H:7])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:8],1.7084464773
[H:9].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])[O:10][C:11][H:12]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11][H:12],-4.101671104119999
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16],4.63026227522
[O:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[H:8]>>[O:1].[O:2][C:3]#[C:4][C:5]([H:6])([H:7])[H:8],0.7911602715
[O:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:7].[O:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],3.16493971656
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],2.06319271762
[H:13].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])=[C:11][H:12]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])=[C:11]([H:12])[H:13],-4.9124997223
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])[O:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:4],4.55663365003
[C:3]([H:4])([H:5])=[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[H:12],-2.76471665485
[C:13]([H:14])[H:15].[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-5.20386701445
